US04751163
After adding 100 ml of benzene to a diethyl ether solution of methylmagnesium iodide prepared from 1.7 g of magnesium, 9.9 g of methyl iodide, and 100 ml of diethyl ether, 16.6 of 4,4'-bis-dimethylaminobenzophenone was gradually added thereto. After stirring at room temperature for 10 hours, the reaction mixture was decomposed by a saturated aqueous ammonium chloride solution, followed by stirring as it was for 2 hours. After separating and water-washing an organic layer, the solvent was distilled off, and the residue was recrystallized from ethanol to obtain 10.7 g of 1,1-bis(4'-dimethylaminophenyl)ethylene. The melting point was 121° to 122° C., and the theoretical yield was 65%.

reactant | methylmagnesium iodide | C[Mg]I
reactant | magnesium | 1.7 g | [Mg] | Mg
reactant | methyl iodide | 9.9 g | CI | CH3I
reactant | 4,4'-bis-dimethylaminobenzophenone | CN(C1=CC=C(C(=O)C2=CC=C(C=C2)N(C)C)C=C1)C | C17H20N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1,1-bis(4'-dimethylaminophenyl)ethylene | 10.7 g, yield was 65% | CN(C1=CC=C(C=C1)C(=C)C1=CC=C(C=C1)N(C)C)C | C18H22N2
